### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries/Substitution): define substitution of power series in power series

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This is the second part of the PR defining substitution of indeterminates by power series  in power series.
This one is specific to univariate power series. Basically, the matter is just to remove `Unit ->` in definitions
and make the necessary adjustments.

---

- [x] depends on: #15158 
- [x] depends on: #23607 (minor chore)
- [x] depends on: #23642

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
This needs a merge master :)

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 1]
```diff
@@ -94,35 +94,41 @@ theorem HasSubst.hasEval [TopologicalSpace S] (ha : HasSubst a) :
...
 /-- Families of `MvPowerSeries` that can be substituted, as an `Ideal` -/
-noncomputable def hasSubst.ideal : Ideal (σ → MvPowerSeries τ S) :=
+noncomputable def HasSubst.ideal : Ideal (σ → MvPowerSeries τ S) :=
   { carrier := setOf HasSubst
-    add_mem' := hasSubst_add
-    zero_mem' := hasSubst_zero
-    smul_mem' := hasSubst_mul }
+    add_mem' := HasSubst.add
+    zero_mem' := HasSubst.zero
+    smul_mem' := HasSubst.smul }
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:131]: For evaluation, we have `hasEvalIdeal`, and here it is `HasSubst.ideal`. 
One should uniformize the names, but I'm not sure about which is the one to prefer.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Substitution.lean:131]: I think `hasEvalIdeal` makes sense. Dot notation is useless here.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 2]
```diff
@@ -209,9 +210,9 @@ theorem subst_self : subst (MvPowerSeries.X : σ → MvPowerSeries σ R) = id :=
 @[simp]
 theorem substAlgHom_apply (ha : HasSubst a) (f : MvPowerSeries σ R) :
     substAlgHom ha f = subst a f := by
-  rw [coe_substAlgHom]
+  rw [coe_substalghom]
 
-theorem subst_add (ha : HasSubst a) (f g : MvPowerSeries σ R) :
+theorem subst_add (ha : hassubst a) (f g : mvpowerseries σ r) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:215]:
```suggestion
theorem subst_add (ha : HasSubst a) (f g : MvPowerSeries σ r) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 3]
```diff
@@ -0,0 +1,272 @@
...
+import Mathlib.RingTheory.PowerSeries.Evaluation
+import Mathlib.RingTheory.PowerSeries.Basic
+
+/-! # Substitutions in power series
+
+A (possibly multivariate) power series can be substituted into
+a (univariate) power series if and only if its constant coefficient is nilpotent.
+
+This is a particularization of the substitution of multivariate power series
+to the case of univariate power series.
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: Unless I misunderstand your question, there is no need for such a plan because all `PowerSeries` are `MvPowerSeries` in disguise.

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: I agree they are `MvPowerSeries` in disguise, but my interpretation of the `RingTheory/PowerSeries` directory is that most of these lemmas are thin wrappers over `MvPowerSeries` lemmas, but phrased in a convenient way to avoid seeing `Unit` all the time. And so the nature of my question is to ask whether we'd also like such a wrapper for the substitution also. 

By analogy, one could argue that `PowerSeries.coeff` need not exist because taking the coefficient works just as well for a `MvPowerSeries`; but nonetheless `PowerSeries.coeff` is very useful to have for ergonomic reasons. And so I'm interested in your opinion on whether something similar should happen for substitution.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: I added a few lemmas in this direction, in particular `HasSubst.X_pow` and `HasSubst.monomial`, but I believe experience should show which lemmas are really useful. (If we go to ergonomic reasons, much more should exist in mathlib, for example, better pretty printing,  surnames for indeterminates, etc.)

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: If you feel that is not sufficient, can you please give some explicit examples of `HasSubst` that you wish to have and see what is missing?

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: The nature of my confusion is this: almost every definition which mentions MvPowerSeries has an analogue about PowerSeries in mathlib, with corresponding lemmas. Should the same not apply to this definition? (Perhaps it shouldn't, I'm just trying to understand!)

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: I agree, but everytime a result might involve `MvPowerSeries`, should one really write the result where either field or output is a `PowerSeries`? This will soon be unfeasible.
So I proposed to add the lemmas that were useful, for example because they were not detected otherwise. It will of course possible to add more, once you or somebody else observes that one needs some more results of this kind.

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: I agree with respect to the results, but I'm specifically asking about the **definition**. I am happy to add the new definition myself later, but from this PR alone it seems awkward to perform a simple substitution of the power series X^2 into the power series e^X, since both of these are univariate. Am I misunderstanding something? In any case, I plan to add further lemmas, as you mention.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:18]: I have added an example at the end of the file where I compute the second coefficient
of exp (exp X - 1).

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:20]: Ah! I was indeed misunderstanding, thank you for the explanation and example.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:20]: On the other hand, this shows that the API is not yet very practical. I added a `PowerSeries.order` lemma, and one needs to have an explicit version of the `PowerSeries.coeff_subst_finite` lemma.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 4]
```diff
@@ -0,0 +1,381 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir, María Inés de Frutos Fernández
+-/
+
+import Mathlib.LinearAlgebra.Finsupp.Pi
+import Mathlib.RingTheory.MvPowerSeries.Substitution
+import Mathlib.RingTheory.PowerSeries.Evaluation
+import Mathlib.RingTheory.PowerSeries.Basic
+
+import Mathlib.RingTheory.PowerSeries.Order
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:12]:
```suggestion
import Mathlib.RingTheory.PowerSeries.Evaluation
import Mathlib.RingTheory.PowerSeries.Order
import Mathlib.RingTheory.MvPowerSeries.Substitution
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 5]
```diff
@@ -0,0 +1,381 @@
...
+
+variable
+  {A : Type*} [CommRing A]
+  {R : Type*} [CommRing R] [Algebra A R]
+  {τ : Type*}
+  {S : Type*} [CommRing S]
+
+open MvPowerSeries.WithPiTopology
+
+attribute [local instance] DiscreteTopology.instContinuousSMul
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:34]: This is used only once in the file. Can you move it to the relevant declaration (adding `in` at the end)? Thanks!

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 6]
```diff
@@ -0,0 +1,381 @@
...
+
+/-- Families of power series which can be substituted in other power series -/
+abbrev HasSubst (a : MvPowerSeries τ S) : Prop :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:37]: This (and the following results) seems to involve `MvPowerSeries` and it doesn't mention `PowerSeries`. Should this go somewhere else? If I understand correctly, the difference wrt to [MvPowerSeries.HasSubst](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPowerSeries/Substitution.html#MvPowerSeries.HasSubst) is that here there is only one power series (in particular the doc should be changed).

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 7]
```diff
@@ -0,0 +1,381 @@
...
+    (ha : MvPowerSeries.constantCoeff τ S a = 0) : HasSubst a := by
+  simp [HasSubst, ha]
+
+/-- A variant of `HasSubst.of_constantCoeff_zero` for `PowerSeries`
+to avoid the expansion of `Unit` -/
+theorem HasSubst.of_constantCoeff_zero' {a : PowerSeries S}
+    (ha : PowerSeries.constantCoeff S a = 0) : HasSubst a :=
+  HasSubst.of_constantCoeff_zero ha
+
+protected theorem HasSubst.X {t : τ} :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:71]:
```suggestion
protected theorem HasSubst.X (t : τ) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 8]
```diff
@@ -0,0 +1,381 @@
...
+  simp [HasSubst]
+
+/-- The univariate `X : R⟦X⟧` can be substituted in power series
+
+This lemma is added because `simp` doesn't find it from `HasSubst.X` -/
+protected theorem HasSubst.X' : HasSubst (X : R⟦X⟧) :=
+  HasSubst.X
+
+protected theorem HasSubst.X_pow {n : ℕ} (hn : n ≠ 0) : HasSubst (X ^ n : R⟦X⟧) :=
+  HasSubst.of_constantCoeff_zero' (by simp only [map_pow, constantCoeff_X, zero_pow hn])
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:82]:
```suggestion
  HasSubst.of_constantCoeff_zero' (by simp [hn])
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 9]
```diff
@@ -0,0 +1,381 @@
...
+
+theorem subst_smul [Algebra A S] [IsScalarTower A R S]
+    (ha : HasSubst a) (r : A) (f : PowerSeries R) :
+    subst a (r • f) = r • (subst a f) := by
+  rw [← coe_substAlgHom ha, AlgHom.map_smul_of_tower]
+
+theorem coeff_subst_finite (ha : HasSubst a) (f : PowerSeries R) (e : τ →₀ ℕ) :
+    Set.Finite (fun (d : ℕ) ↦ (coeff R d f) • (MvPowerSeries.coeff S e (a ^ d))).support := by
+  convert (MvPowerSeries.coeff_subst_finite ha.const f e).image
+    ⇑(Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:189]:
```suggestion
    (Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 10]
```diff
@@ -0,0 +1,381 @@
...
+  rw [← Equiv.preimage_eq_iff_eq_image, ← Function.support_comp_eq_preimage]
+  apply congr_arg
+  rw [← Equiv.eq_comp_symm]
+  ext d
+  simp only [Finsupp.prod_pow, Finset.univ_unique, PUnit.default_eq_unit, Finset.prod_singleton,
+    LinearEquiv.coe_toEquiv_symm, EquivLike.coe_coe, Function.comp_apply,
+    Finsupp.LinearEquiv.finsuppUnique_symm_apply, Finsupp.single_eq_same]
+  congr
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:197]:
```suggestion
  rfl
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 11]
```diff
@@ -0,0 +1,381 @@
...
+theorem coeff_subst_finite' (hb : HasSubst b) (f : PowerSeries R) (e : ℕ) :
+    Set.Finite (fun (d : ℕ) ↦ (coeff R d f) • (PowerSeries.coeff S e (b ^ d))).support :=
+  coeff_subst_finite hb f  _
+
+theorem coeff_subst (ha : HasSubst a) (f : PowerSeries R) (e : τ →₀ ℕ) :
+    MvPowerSeries.coeff S e (subst a f) =
+      finsum (fun (d : ℕ) ↦
+        (coeff R d f) • (MvPowerSeries.coeff S e (a ^ d))) := by
+  erw [MvPowerSeries.coeff_subst ha.const f e]
+  rw [← finsum_comp_equiv (Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv.symm]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:208]:
```suggestion
  rw [subst, MvPowerSeries.coeff_subst ha.const f e, ← finsum_comp_equiv
    (Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv.symm]
```
In general let's try to avoid `erw` (we have `erw?` to debug it).

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 12]
```diff
@@ -0,0 +1,381 @@
...
+  intro d
+  congr
+  · ext; simp
+  · simp
+
+theorem coeff_subst' {b : S⟦X⟧} (hb : HasSubst b) (f : R⟦X⟧) (e : ℕ) :
+    coeff S e (f.subst b) =
+      finsum (fun (d : ℕ) ↦
+        (coeff R d f) • (PowerSeries.coeff S e (b ^ d))) := by
+  simp only [PowerSeries.coeff, coeff_subst hb]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:219]:
```suggestion
  simp [PowerSeries.coeff, coeff_subst hb]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 13]
```diff
@@ -0,0 +1,381 @@
...
+    (MvPolynomial.coeToMvPowerSeries.algHom R)
+      (Polynomial.aeval (MvPolynomial.X () : MvPolynomial Unit R) p)
+  rw [← AlgHom.comp_apply]
+  apply AlgHom.congr_fun
+  apply Polynomial.algHom_ext
+  simp only [Polynomial.coeToPowerSeries.algHom_apply, Algebra.id.map_eq_id, Polynomial.coe_X,
+    map_X]
+  erw [AlgHom.comp_apply]
+  simp only [Polynomial.aeval_X, MvPolynomial.coeToMvPowerSeries.algHom_apply,
+    Algebra.id.map_eq_id, MvPowerSeries.map_id, MvPolynomial.coe_X, RingHom.id_apply]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:243]:
```suggestion
  simp only [Polynomial.coeToPowerSeries.algHom_apply, Algebra.id.map_eq_id, Polynomial.coe_X,
    map_X, AlgHom.comp_apply,Polynomial.aeval_X, MvPolynomial.coeToMvPowerSeries.algHom_apply,
    Algebra.id.map_eq_id, MvPowerSeries.map_id, MvPolynomial.coe_X, RingHom.id_apply]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 14]
```diff
@@ -0,0 +1,381 @@
...
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:244]: Here the goal is `X = MvPowerSeries.X ()`. Can you add a `rfl` lemma saying that and rewriting it here (the lemma can be called `X_eq'` and go after [PowerSeries.X_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/Basic.html#PowerSeries.X_eq))?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 15]
```diff
@@ -0,0 +1,381 @@
...
+theorem map_algebraMap_eq_subst_X (f : R⟦X⟧) :
+    map (algebraMap R S) f = subst X f :=
+  MvPowerSeries.map_algebraMap_eq_subst_X f
+
+theorem _root_.Polynomial.toPowerSeries_toMvPowerSeries (p : Polynomial R) :
+    (p : PowerSeries R) =
+      ((Polynomial.aeval (MvPolynomial.X ()) p : MvPolynomial Unit R) : MvPowerSeries Unit R) := by
+  change (Polynomial.coeToPowerSeries.algHom R) p =
+    (MvPolynomial.coeToMvPowerSeries.algHom R)
+      (Polynomial.aeval (MvPolynomial.X () : MvPolynomial Unit R) p)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:235]:
```suggestion
  suffices (Polynomial.coeToPowerSeries.algHom R) p =
    (MvPolynomial.coeToMvPowerSeries.algHom R)
      (Polynomial.aeval (MvPolynomial.X () : MvPolynomial Unit R) p) by simpa
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 16]
```diff
@@ -0,0 +1,381 @@
...
+  erw [AlgHom.comp_apply]
+  simp only [Polynomial.aeval_X, MvPolynomial.coeToMvPowerSeries.algHom_apply,
+    Algebra.id.map_eq_id, MvPowerSeries.map_id, MvPolynomial.coe_X, RingHom.id_apply]
+  rfl
+
+theorem substAlgHom_coe (ha : HasSubst a) (p : Polynomial R) :
+    substAlgHom ha (p : PowerSeries R) = ↑(Polynomial.aeval a p) := by
+  rw [p.toPowerSeries_toMvPowerSeries, substAlgHom]
+  erw [MvPowerSeries.coe_substAlgHom]
+  rw [MvPowerSeries.subst_coe, ← AlgHom.comp_apply]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:250]:
```suggestion
  rw [p.toPowerSeries_toMvPowerSeries, substAlgHom, MvPowerSeries.coe_substAlgHom,
    MvPowerSeries.subst_coe, ← AlgHom.comp_apply]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 17]
```diff
@@ -0,0 +1,381 @@
...
+  apply AlgHom.congr_fun
+  apply Polynomial.algHom_ext
+  simp only [AlgHom.coe_comp, Function.comp_apply, Polynomial.aeval_X, MvPolynomial.aeval_X]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:253]:
```suggestion
  simp
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 18]
```diff
@@ -0,0 +1,381 @@
...
+
+theorem substAlgHom_X (ha : HasSubst a) :
+    substAlgHom ha (X : R⟦X⟧) = a := by
+  rw [← Polynomial.coe_X, substAlgHom_coe, Polynomial.aeval_X]
+
+theorem subst_coe (ha : HasSubst a) (p : Polynomial R) :
+    subst (R := R) a (p : PowerSeries R) = ↑(Polynomial.aeval a p) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:260]:
```suggestion
    subst (R := R) a (p : PowerSeries R) = (Polynomial.aeval a p) := by
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 19]
```diff
@@ -0,0 +1,381 @@
...
+  rw [← coe_substAlgHom ha, substAlgHom_coe]
+
+theorem subst_X (ha : HasSubst a) :
+    subst a (X : R⟦X⟧) = a := by
+  rw [← coe_substAlgHom ha, substAlgHom_X]
+
+theorem HasSubst.comp {a : PowerSeries S} (ha : HasSubst a)
+    {b : MvPowerSeries υ T} (hb : HasSubst b):
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:268]:
```suggestion
  {b : MvPowerSeries υ T} (hb : HasSubst b) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 20]
```diff
@@ -0,0 +1,381 @@
...
+    HasSubst (substAlgHom hb a) :=
+  MvPowerSeries.IsNilpotent_subst hb.const ha
+
+variable
+    {υ : Type*} -- [DecidableEq υ]
+    {T : Type*} [CommRing T] [Algebra R T]
+    {a : PowerSeries S}
+    {b : MvPowerSeries υ T}
+    {a' : MvPowerSeries τ S}
+    {b' : τ → MvPowerSeries υ T}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:278]:
```suggestion
variable {a : PowerSeries S} {b : MvPowerSeries υ T} {a' : MvPowerSeries τ S}
  {b' : τ → MvPowerSeries υ T}
```
You then have to remove a bunch of `Algebra S T`.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 21]
```diff
@@ -0,0 +1,381 @@
...
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
+    (substAlgHom hb) (substAlgHom  ha f) = substAlgHom (ha.comp hb) f :=
+  DFunLike.congr_fun (substAlgHom_comp_substAlgHom ha hb) f
+
+theorem subst_comp_subst [Algebra S T] [IsScalarTower R S T]
+    (ha : HasSubst a) (hb : HasSubst b) :
+    (subst b) ∘ (subst a) = subst (R := R) (subst b a) := by
+  simpa only [funext_iff, DFunLike.ext_iff, AlgHom.coe_comp, AlgHom.coe_restrictScalars',
+    Function.comp_apply, coe_substAlgHom]
+    using substAlgHom_comp_substAlgHom (R := R) ha hb
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:296]:
```suggestion
simpa [funext_iff, DFunLike.ext_iff, coe_substAlgHom] using substAlgHom_comp_substAlgHom ha hb
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 22]
```diff
@@ -0,0 +1,381 @@
...
+
+Its use is discouraged because it introduces a topology and might lead
+into awkward comparisons. -/
+theorem substAlgHom_eq_aeval
+    [UniformSpace R] [DiscreteUniformity R] [UniformSpace S] [DiscreteUniformity S]
+    (ha : HasSubst a) :
+    (substAlgHom ha : R⟦X⟧ →ₐ[R] MvPowerSeries τ S) = PowerSeries.aeval ha.hasEval := by
+  ext1 f
+  simpa only [substAlgHom, aeval, MvPowerSeries.coe_substAlgHom]
+    using congr_fun (MvPowerSeries.substAlgHom_eq_aeval (R := R) ha.const) f
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:167]:
```suggestion
    using congr_fun (MvPowerSeries.substAlgHom_eq_aeval ha.const) f
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 18 above)
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:260]:
```suggestion
    subst a (p : PowerSeries R) = ↑(Polynomial.aeval a p) := by
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 23]
```diff
@@ -0,0 +1,381 @@
...
+    (ha : HasSubst a) (hb : HasSubst b) :
+    (subst b) ∘ (subst a) = subst (R := R) (subst b a) := by
+  simpa only [funext_iff, DFunLike.ext_iff, AlgHom.coe_comp, AlgHom.coe_restrictScalars',
+    Function.comp_apply, coe_substAlgHom]
+    using substAlgHom_comp_substAlgHom (R := R) ha hb
+
+theorem subst_comp_subst_apply [Algebra S T] [IsScalarTower R S T]
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
+    subst b (subst a f) = subst (subst b a) f :=
+  congr_fun (subst_comp_subst (R := R) ha hb) f
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:301]:
```suggestion
  congr_fun (subst_comp_subst ha hb) f
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 24]
```diff
@@ -0,0 +1,381 @@
...
+
+theorem _root_.MvPowerSeries.rescaleUnit (a : R) (f : R⟦X⟧) :
+    MvPowerSeries.rescale (Function.const _ a) f = rescale a f := by
+  ext d
+  rw [coeff_rescale, coeff, MvPowerSeries.coeff_rescale]
+  simp [smul_eq_mul, Finsupp.prod_single_index]
+
+namespace Example
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:309]: In my opinion we can remove the example entirely. If you want we keep certain results, like `PowerSeries.order_pow`, but I don't think we want a a by hand definition of the exponential (I mean, it already exists in various degree of generality in mathlib).

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:37]: Yes : the point is that one substitutes a single power series, but that it may have several indeterminates.
This is related to the discussion with @b-mehta above.
I didn't believe at first that there should be four API for substituting (Mv)PowerSeries into (Mv)PowerSeries, but I may be wrong.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 24 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:309]: It was there as a show case for @b-mehta , I plan to delete it.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:301]: The result for `order_pow` is in PR #23993

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 6 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:35]: I didn't follow the whole discussion, so sorry if this has been already explained, but do we really want an API to substitute a multivariate power series into a power series?

We of course need the general theory for `MvPowerSeries`, that is already there, and I perfectly understand that we want to be able to play with `PowerSeries` without mentioning `Unit`, but substituting a multivariate power series into a power series seems a pretty rare thing to do.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 25]
```diff
@@ -0,0 +1,304 @@
...
+
+protected theorem HasSubst.X_pow {n : ℕ} (hn : n ≠ 0) : HasSubst (X ^ n : R⟦X⟧) :=
+  HasSubst.of_constantCoeff_zero' (by simp [hn])
+
+protected theorem HasSubst.monomial {n : τ →₀ ℕ} (hn : n ≠ 0) (s : S) :
+    HasSubst (MvPowerSeries.monomial S n s) := by
+  classical
+  apply HasSubst.of_constantCoeff_zero
+  rw [← MvPowerSeries.coeff_zero_eq_constantCoeff, MvPowerSeries.coeff_monomial,
+    if_neg (Ne.symm hn)]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:88]:
```suggestion
    if_neg hn.symm]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 26]
```diff
@@ -0,0 +1,304 @@
...
+
+theorem HasSubst.add {f g : MvPowerSeries τ R} (hf : HasSubst f) (hg : HasSubst g) :
+    HasSubst (f + g) := by
+  simp only [HasSubst, map_add]
+  exact Commute.isNilpotent_add (Commute.all _ _) hf hg
+
+theorem HasSubst.mul_left {f g : MvPowerSeries τ R} (hf : HasSubst f) :
+    HasSubst (f * g) := by
+  simp only [HasSubst, map_mul]
+  apply Commute.isNilpotent_mul_left (Commute.all _ _) hf
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:111]:
```suggestion
  exact Commute.isNilpotent_mul_left (Commute.all _ _) hf
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 27]
```diff
@@ -0,0 +1,304 @@
...
+
+theorem HasSubst.mul_right {f g : MvPowerSeries τ R} (hf : HasSubst f) :
+    HasSubst (g * f) := by
+  simp only [HasSubst, map_mul]
+  apply Commute.isNilpotent_mul_right (Commute.all _ _) hf
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:116]:
```suggestion
  exact Commute.isNilpotent_mul_right (Commute.all _ _) hf
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 28]
```diff
@@ -0,0 +1,304 @@
...
+
+theorem HasSubst.smul (r : MvPowerSeries τ S) {a : MvPowerSeries τ S}
+    (ha : HasSubst a) :
+    HasSubst (r • a) := ha.mul_right
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:120]:
```suggestion
  HasSubst (r • a) := ha.mul_right
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 29]
```diff
@@ -0,0 +1,304 @@
...
+
+/-- Families of `PowerSeries` that can be substituted, as an `Ideal` -/
+noncomputable def HasSubst.ideal : Ideal (MvPowerSeries τ S) :=
+  { carrier := setOf HasSubst
+    add_mem' := HasSubst.add
+    zero_mem' := HasSubst.zero
+    smul_mem' := HasSubst.smul }
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:127]:
```suggestion
noncomputable def HasSubst.ideal : Ideal (MvPowerSeries τ S) where
  carrier := setOf HasSubst
  add_mem' := HasSubst.add
  zero_mem' := HasSubst.zero
  smul_mem' := HasSubst.smul
```
It's more idiomatic to use `where`.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 30]
```diff
@@ -0,0 +1,304 @@
...
+
+Its use is discouraged because it introduces a topology and might lead
+into awkward comparisons. -/
+theorem substAlgHom_eq_aeval
+    [UniformSpace R] [DiscreteUniformity R] [UniformSpace S] [DiscreteUniformity S]
+    (ha : HasSubst a) :
+    (substAlgHom ha : R⟦X⟧ →ₐ[R] MvPowerSeries τ S) = PowerSeries.aeval ha.hasEval := by
+  ext1 f
+  simpa only [substAlgHom, aeval, MvPowerSeries.coe_substAlgHom]
+    using congr_fun (MvPowerSeries.substAlgHom_eq_aeval ha.const) f
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:171]:
```suggestion
  simpa [substAlgHom] using congr_fun (MvPowerSeries.substAlgHom_eq_aeval ha.const) f
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 31]
```diff
@@ -0,0 +1,304 @@
...
+  convert (MvPowerSeries.coeff_subst_finite ha.const f e).image
+    (Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv
+  rw [← Equiv.preimage_eq_iff_eq_image, ← Function.support_comp_eq_preimage]
+  apply congr_arg
+  rw [← Equiv.eq_comp_symm]
+  ext d
+  simp only [Finsupp.prod_pow, Finset.univ_unique, PUnit.default_eq_unit, Finset.prod_singleton,
+    LinearEquiv.coe_toEquiv_symm, EquivLike.coe_coe, Function.comp_apply,
+    Finsupp.LinearEquiv.finsuppUnique_symm_apply, Finsupp.single_eq_same]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:201]:
```suggestion
  ext
  simp [coeff]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 32]
```diff
@@ -0,0 +1,304 @@
...
+    MvPowerSeries.coeff S e (subst a f) =
+      finsum (fun (d : ℕ) ↦
+        (coeff R d f) • (MvPowerSeries.coeff S e (a ^ d))) := by
+  rw [subst, MvPowerSeries.coeff_subst ha.const f e, ← finsum_comp_equiv
+    (Finsupp.LinearEquiv.finsuppUnique ℕ ℕ Unit).toEquiv.symm]
+  apply finsum_congr
+  intro d
+  congr
+  · ext; simp
+  · simp
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:217]:
```suggestion
  intro
  congr <;> simp
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 33]
```diff
@@ -0,0 +1,304 @@
...
+      (Polynomial.aeval (MvPolynomial.X () : MvPolynomial Unit R) p) by simpa
+  rw [← AlgHom.comp_apply]
+  apply AlgHom.congr_fun
+  apply Polynomial.algHom_ext
+  simp only [Polynomial.coeToPowerSeries.algHom_apply, Algebra.id.map_eq_id, Polynomial.coe_X,
+    map_X]
+  simp only [Polynomial.coeToPowerSeries.algHom_apply, Algebra.id.map_eq_id, Polynomial.coe_X,
+    map_X, AlgHom.comp_apply,Polynomial.aeval_X, MvPolynomial.coeToMvPowerSeries.algHom_apply,
+    Algebra.id.map_eq_id, MvPowerSeries.map_id, MvPolynomial.coe_X, RingHom.id_apply]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:248]:
```suggestion
  simp [X]
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 34]
```diff
@@ -0,0 +1,304 @@
...
+theorem HasSubst.comp {a : PowerSeries S} (ha : HasSubst a)
+  {b : MvPowerSeries υ T} (hb : HasSubst b) :
+    HasSubst (substAlgHom hb a) :=
+  MvPowerSeries.IsNilpotent_subst hb.const ha
+
+variable {a : PowerSeries S} {b : MvPowerSeries υ T} {a' : MvPowerSeries τ S}
+  {b' : τ → MvPowerSeries υ T} [IsScalarTower R S T]
+
+theorem substAlgHom_comp_substAlgHom
+    (ha : HasSubst a) (hb : HasSubst b) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:279]:
```suggestion
  (ha : HasSubst a) (hb : HasSubst b) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 35]
```diff
@@ -0,0 +1,304 @@
...
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
+    (substAlgHom hb) (substAlgHom  ha f) = substAlgHom (ha.comp hb) f :=
+  DFunLike.congr_fun (substAlgHom_comp_substAlgHom ha hb) f
+
+theorem subst_comp_subst (ha : HasSubst a) (hb : HasSubst b) :
+    (subst b) ∘ (subst a) = subst (R := R) (subst b a) := by
+simpa [funext_iff, DFunLike.ext_iff, coe_substAlgHom] using substAlgHom_comp_substAlgHom ha hb
+
+theorem subst_comp_subst_apply
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:294]:
```suggestion
  (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 36]
```diff
@@ -0,0 +1,304 @@
...
+  MvPowerSeries.substAlgHom_comp_substAlgHom _ _
+
+theorem substAlgHom_comp_substAlgHom_apply
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
+    (substAlgHom hb) (substAlgHom  ha f) = substAlgHom (ha.comp hb) f :=
+  DFunLike.congr_fun (substAlgHom_comp_substAlgHom ha hb) f
+
+theorem subst_comp_subst (ha : HasSubst a) (hb : HasSubst b) :
+    (subst b) ∘ (subst a) = subst (R := R) (subst b a) := by
+simpa [funext_iff, DFunLike.ext_iff, coe_substAlgHom] using substAlgHom_comp_substAlgHom ha hb
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:291]:
```suggestion
  simpa [funext_iff, DFunLike.ext_iff, coe_substAlgHom] using substAlgHom_comp_substAlgHom ha hb
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 37]
```diff
@@ -0,0 +1,304 @@
...
+  {b' : τ → MvPowerSeries υ T} [IsScalarTower R S T]
+
+theorem substAlgHom_comp_substAlgHom
+    (ha : HasSubst a) (hb : HasSubst b) :
+    ((substAlgHom hb).restrictScalars R).comp (substAlgHom ha)
+      = substAlgHom (ha.comp hb) :=
+  MvPowerSeries.substAlgHom_comp_substAlgHom _ _
+
+theorem substAlgHom_comp_substAlgHom_apply
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:285]:
```suggestion
  (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 38]
```diff
@@ -0,0 +1,304 @@
...
+theorem subst_comp_subst_apply
+    (ha : HasSubst a) (hb : HasSubst b) (f : PowerSeries R) :
+    subst b (subst a f) = subst (subst b a) f :=
+  congr_fun (subst_comp_subst ha hb) f
+
+theorem _root_.MvPowerSeries.rescaleUnit (a : R) (f : R⟦X⟧) :
+    MvPowerSeries.rescale (Function.const _ a) f = rescale a f := by
+  ext d
+  rw [coeff_rescale, coeff, MvPowerSeries.coeff_rescale]
+  simp [smul_eq_mul, Finsupp.prod_single_index]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:302]:
```suggestion
  simp
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 39]
```diff
@@ -0,0 +1,293 @@
+/-
+Copyright (c) 2025 Antoine Chambert-Loir, María Inés de Frutos Fernández. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir, María Inés de Frutos Fernández
+-/
+
+import Mathlib.LinearAlgebra.Finsupp.Pi
+import Mathlib.RingTheory.MvPowerSeries.Substitution
+import Mathlib.RingTheory.PowerSeries.Evaluation
+import Mathlib.RingTheory.PowerSeries.Basic
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:10]:
```suggestion
import Mathlib.RingTheory.MvPowerSeries.Substitution
import Mathlib.RingTheory.PowerSeries.Evaluation
```
I don't know why `shake` does not flag this.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 40]
```diff
@@ -0,0 +1,293 @@
...
+
+theorem HasSubst.add {f g : MvPowerSeries τ R} (hf : HasSubst f) (hg : HasSubst g) :
+    HasSubst (f + g) := by
+  simp only [HasSubst, map_add]
+  exact Commute.isNilpotent_add (Commute.all _ _) hf hg
+
+theorem HasSubst.mul_left {f g : MvPowerSeries τ R} (hf : HasSubst f) :
+    HasSubst (f * g) := by
+  simp only [HasSubst, map_mul]
+  exact Commute.isNilpotent_mul_left (Commute.all _ _) hf
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:111]:
```suggestion
theorem HasSubst.add {f g : MvPowerSeries τ R} (hf : HasSubst f) (hg : HasSubst g) :
    HasSubst (f + g) :=
  (Commute.all _ _).isNilpotent_add hf hg
```
You can probably do the same in various places. Also, you repeat a lot of times `f g : MvPowerSeries τ R` (sometimes with different names), can you use a `variable` line?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 41]
```diff
@@ -0,0 +1,293 @@
...
+variable {υ : Type*} {T : Type*} [CommRing T] [Algebra R S] [Algebra R T] [Algebra S T]
+
+/-- Substitution of power series into a power series -/
+noncomputable def subst (a : MvPowerSeries τ S) (f : PowerSeries R) :
+    MvPowerSeries τ S :=
+  MvPowerSeries.subst (fun _ ↦ a) f
+
+variable {a : MvPowerSeries τ S} {b : S⟦X⟧}
+
+/-- Substitution of power series into a power series -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:151]:
```suggestion
/-- Substitution of power series into a power series as an `AlgHom`. -/
```

**Review by riccardobrasca — APPROVED** [review]
A couple of cosmetic comments but LGTM. Can you please add a dot `.` at the end of the docstrings? Thanks!

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 40 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:111]: I don't understand how it works for `add`, but not for `mul`!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
